US07700655B2
(1) 3-[3,5-Bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione
5N Aqueous sodium hydroxide (0.5 mL) was added to a mixture of 2,4-thiazolidinedione (198.7 mg, 1.69 mmol), 3,5-bis(trifluoromethyl)benzyl bromide (0.50 g, 1.63 mmol) and ethanol (5 mL), and the mixture was refluxed for 4 hours. After the reaction mixture was cooled to room temperature, it was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine and dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1→2:1) to give the title compound (405.6 mg, 72.5%) as a white crystal.

reactant | sodium hydroxide | 5N, 0.5 mL | [OH-].[Na+]
reactant | 2,4-thiazolidinedione | 1.69 mmol, 198.7 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 1.63 mmol, 0.50 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[3,5-Bis(trifluoromethyl)benzyl]thiazolidine-2,4-dione | 405.6 mg, 72.5% | FC(C=1C=C(CN2C(SCC2=O)=O)C=C(C1)C(F)(F)F)(F)F | C12H7F6NO2S
